US04749733
N-benzyl-N-(2-hydroxy-3-phenoxypropyl)hydroxylamine
The procedure of Example 1 is repeated using 3.5 g of N-benzylhydroxylamine and 6.16 g of phenylglycidyl ether in 50 ml of isopropanol. Purification by liquid chromatography affords the title compound in 35% yield as a colorless oil.

reactant | N-benzylhydroxylamine | 3.5 g | C(C1=CC=CC=C1)NO | C7H9NO
reactant | phenylglycidyl ether | 6.16 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | N-benzyl-N-(2-hydroxy-3-phenoxypropyl)hydroxylamine | 35% yield | C(C1=CC=CC=C1)N(O)CC(COC1=CC=CC=C1)O | C16H19NO3
